US04461896
(±)-1,2,3,4-Tetrahydro-1-(3-mercapto-2-methyl-1-oxopropyl)-2-quinolinecarboxylic Acid
(±) 1-(3-Acetylthio-2-methyl-1-oxopropyl)-1,2,3,4-tetrahydro-2-quinolinecarboxylic acid (26 g), concentrated ammonium hydroxide (55 ml), and water (110 ml) were combined and stirred at room temperature under nitrogen for six hours. After this time, concentrated hydrochloric acid was added while cooling with an ice bath until pH 2. The reaction mixture was extracted with ether (150 ml) and the extract dried over sodium sulfate, and evaporated to an oil. This residue, (±)-1,2,3,4-tetrahydro-1-(3-mercapto-2-methyl-1-oxopropyl)-2-quinolinecarboxylic acid, was crystallized from toluene; yield 4.5 g, m.p. 98°-101°.

reactant | (±) 1-(3-Acetylthio-2-methyl-1-oxopropyl)-1,2,3,4-tetrahydro-2-quinolinecarboxylic acid | 26 g | C(C)(=O)SCC(C(=O)N1C(CCC2=CC=CC=C12)C(=O)O)C | C16H19NO4S
reactant | ammonium hydroxide | 55 ml | [OH-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 110 ml | O | H2O
product | (±)-1,2,3,4-Tetrahydro-1-(3-mercapto-2-methyl-1-oxopropyl)-2-quinolinecarboxylic Acid | SCC(C(=O)N1C(CCC2=CC=CC=C12)C(=O)O)C | C14H17NO3S
